US07247628B2
N-Methoxy-N-methyl-5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazole-3-carboxamide (I-1a)
Isopropylmagnesium chloride (15 ml, 30 mmol) was added dropwise over a 10 to 15 minute period to a stirred solution of ethyl 5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazole-3-carboxylate (8.15 g, 21.7 mmol) and N,O-dimethylhydroxylamine hydrochloride (1.51 g, 15.5 mmol) in THF at −25° C. After stirring for an additional 15 minutes at −25° C., the reaction mixture was quenched with saturated aqueous NH4Cl and then extracted with methyl-tert-butyl ether. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo to give the title compound I-1a as a golden oil (8.76 g).

reactant | Isopropylmagnesium chloride | 30 mmol, 15 ml | C(C)(C)[Mg]Cl
reactant | ethyl 5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazole-3-carboxylate | 21.7 mmol, 8.15 g | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=CC=C1)Cl)C(=O)OCC)C | C19H16Cl2N2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 15.5 mmol, 1.51 g | Cl.CNOC
solvent | THF | C1CCOC1 | C4H8O
product | N-Methoxy-N-methyl-5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-methyl-1H-pyrazole-3-carboxamide | CON(C(=O)C1=NN(C(=C1C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C | C19H17Cl2N3O2
